US08754229B2
Preparation of (3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl)trimethylsilane
To a −78° C. solution of 1,4-dibromo-2-fluorobenzene (4 g, 15.75 mmol) in THF (52.5 mL) was added a solution of n-BuLi (2.5 M in hexanes; 6.3 mL, 15.75 mmol). The reaction mixture was stirred at −78° C. for 30 min 2-Isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (3.21 mL, 15.75 mmol) was then added, and the mixture was stirred at −78° C. for an additional 1 h. A solution of n-BuLi (2.5 M in hexanes; 6.3 mL, 15.75 mmol) was then added, followed after 30 min by TMSCl (4.03 mL, 31.5 mmol). The reaction mixture was allowed to warm slowly to room temperature and was stirred overnight. The mixture was then poured into a half saturated NH4Cl solution (300 mL), and the crude product was extracted with Et2O (3×). The combined organic layers were dried over MgSO4, filtered, concentrated and dried in vacuo to afford the title compound as a yellow oil (4.87 g, 11.92 mmol, 76% yield based on a 72% purity): 1H NMR (400 MHz, CDCl3) δ 7.71 (dd, J=7.2, 6.0 Hz, 1H), 7.26 (dt, J=7.2, 1.2 Hz, 1H), 7.16 (dd, J=9.6, 0.4 Hz, 1H), 1.36 (s, 12H), 0.26 (s, 9H); 19F NMR (376 MHz, CDCl3) δ −104.02; EIMS m/z 294.

reactant | 1,4-dibromo-2-fluorobenzene | 15.75 mmol, 4 g | BrC1=C(C=C(C=C1)Br)F | C6H3Br2F
reactant | n-BuLi | 15.75 mmol, 2.5 M, 6.3 mL | [Li]CCCC
reactant | 2-Isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 15.75 mmol, 3.21 mL | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
reactant | n-BuLi | 15.75 mmol, 2.5 M, 6.3 mL | [Li]CCCC
reactant | TMSCl | 31.5 mmol, 4.03 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | NH4Cl | 300 mL | [NH4+].[Cl-]
solvent | THF | 52.5 mL | C1CCOC1 | C4H8O
product | (3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl)trimethylsilane | 76% yield | FC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)[Si](C)(C)C | C15H24BFO2Si
